US05387685
[(7-Bromo-1-phenylheptyl)thio]benzene
A solution of 20.02 g of benzylphenylthioether in 300 ml of diethyl ether is cooled, under nitrogen, in a dry ice bath (the starting thioether precipitates out of solution). Sixty-two ml of 1.7M t-butyllithium, in pentane, is added and after 30 minutes most of the precipitate is re-dissolved. The reaction mixture is warmed to 0° C. for 10 minutes, but it appears that more precipitate is being formed, therefore the reaction is recooled to -78° C. for 30 minutes. The resulting yellow solution is transferred, under nitrogen via canula to a cooled, -78° C., second flask charged with 38.5 ml of 1,6-dibromohexane in 400 ml of diethyl ether (200 ml of tetrahydrofuran needed to maintain a homogenous solution). After the addition, the reaction mixture is allowed to warm to room temperature over 4 hours. Ten ml of ethyl acetate and 10 ml of 2-propanol is added and the reaction is concentrated in vacuo. The white oily residue is dissolved in chloroform, washed with dilute hydrobromic acid and saturated sodium chloride, dried and concentrated in vacuo to give 74.6 g of crude product. The crude product was purified 3X by chromatography (hexane to chloroform to methyl alcohol) to give 29.26 g of pure product.

reactant | benzylphenylthioether | 20.02 g | C(C1=CC=CC=C1)SC1=CC=CC=C1 | C13H12S
reactant | 1,6-dibromohexane | 38.5 ml | BrCCCCCCBr | C6H12Br2
reactant | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
reactant | ethyl acetate | Ten ml | C(C)(=O)OCC | C4H8O2
solvent | diethyl ether | 300 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 400 ml | C(C)OCC | C4H10O
solvent | 2-propanol | 10 ml | CC(C)O | C3H8O
product | [(7-Bromo-1-phenylheptyl)thio]benzene | 29.26 g | BrCCCCCCC(C1=CC=CC=C1)SC1=CC=CC=C1 | C19H23BrS
